US05229403
Into 38 ml of dry tetrahydrofuran, 1.5 g of 2,3-diamino-5-trifluoromethylpyridine was dissolved, and a solution mixture comprising 1.54 g of trichloroacetyl chloride and 3.8 ml of dry tetrahydrofuran was dropwise added thereto over a period of 10 minutes. Then, the mixture was reacted at room temperature for 3 hours. After completion of the reaction, precipitated crystals were collected by filtration and washed with tetrahydrofuran to obtain 2.2 g of N-(2-amino-5-trifluoromethyl-3-pyridyl)trichloroacetamide having a melting point of from 210° to 223° C.

reactant | 2,3-diamino-5-trifluoromethylpyridine | 1.5 g | NC1=NC=C(C=C1N)C(F)(F)F | C6H6F3N3
reactant | trichloroacetyl chloride | 1.54 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
product | N-(2-amino-5-trifluoromethyl-3-pyridyl)trichloroacetamide | 2.2 g | NC1=NC=C(C=C1NC(C(Cl)(Cl)Cl)=O)C(F)(F)F | C8H5Cl3F3N3O
